US06800637B2
3-(2-Bromoethyl)-7-methoxybenzofuran
This compound was prepared by the same method as for intermediate 25, using 4.15 g (21.6 mmol) of 2-(7-methoxybenzofuran-3-yl)-ethanol, 6.8 g (25.9 mmol) of triphenylphosphine, 1.34 mL (25.9 mmol) of bromine, and 3.5 mL (43.2 mmol) of pyridine in 70 mL of CH2Cl2, to afford 2.87 g (52%) of the title compound after flash chromatography on SiO2 (25% CH2Cl2/hexanes to 100% CH2Cl2 gradient): MS (ESI) m/z 254 [M]+.

reactant | 2-(7-methoxybenzofuran-3-yl)-ethanol | 21.6 mmol, 4.15 g | COC1=CC=CC=2C(=COC21)CCO | C11H12O3
reactant | triphenylphosphine | 25.9 mmol, 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 25.9 mmol, 1.34 mL | BrBr | Br2
reactant | pyridine | 43.2 mmol, 3.5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Bromoethyl)-7-methoxybenzofuran | 2.87 g, 52% | BrCCC1=COC2=C1C=CC=C2OC | C11H11BrO2
